US07368578B2
A mixture of 4-methoxymethoxymethyl-2-phenyl-1,3-oxazole-5-carbaldehyde (4.50 g), 1N hydrochloric acid (50 mL) and tetrahydrofuran (100 mL) was heated under reflux for 15 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (1:1, v/v) to give 4-hydroxymethyl-2-phenyl-1,3-oxazole-5-carbaldehyde as pale-yellow crystals (2.6 g, yield 70%). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 134-135° C.

reactant | 4-methoxymethoxymethyl-2-phenyl-1,3-oxazole-5-carbaldehyde | 4.50 g | COCOCC=1N=C(OC1C=O)C1=CC=CC=C1 | C13H13NO4
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-hydroxymethyl-2-phenyl-1,3-oxazole-5-carbaldehyde | 2.6 g, yield 70% | OCC=1N=C(OC1C=O)C1=CC=CC=C1 | C11H9NO3
